US05519138
b) 4-(α-Ethoxycarbonyl-benzyloxy)benzyl alcohol
41.8 g (0.172 mol) of ethyl 2-bromo-phenylacetate and 21.3 g (0.172 mol) of 4-hydroxybenzyl alcohol are dissolved in 850 ml of acetone and 24.8 g (0.18 mol) of potassium carbonate and 5.0 g (0.03 mol) of potassium iodide are added thereto. The reaction mixture is refluxed for 60 hours with stirring. Then the inorganic salts are filtered off and the residue is washed with hot acetone. The filtrate is evaporated down and the residue is purified over a silica gel column (particle size: 0.063-0.02 mm), initially using petroleum ether as eluant and then using mixtures of petroleum ether and ethyl acetate of increasing polarity (9:1, 8:2 and 7:3). The unified fractions are evaporated down in vacuo.

reactant | ethyl 2-bromo-phenylacetate | 0.172 mol, 41.8 g | BrC1=C(C=CC=C1)CC(=O)OCC | C10H11BrO2
reactant | 4-hydroxybenzyl alcohol | 0.172 mol, 21.3 g | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | potassium carbonate | 0.18 mol, 24.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.03 mol, 5.0 g | [I-].[K+]
solvent | acetone | 850 ml | CC(=O)C | C3H6O
product | 4-(α-Ethoxycarbonyl-benzyloxy)benzyl alcohol | C(C)OC(=O)C(C1=CC=CC=C1)OC1=CC=C(CO)C=C1 | C17H18O4
